Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[C:7](=[O:8])[H:9]>>[C:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7](=[O:8])[H:9],-5.454624761830001
[C:1]#[C:2].[C:3](=[O:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[H:9],-1.71032538166
[C:1]=[O:2].[C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],0.8480004404800001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],1.73932978585
[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.3475651209000015
[C:4][C:5]([H:6])([H:7])[H:8].[O:1][O:2][C:3][C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.8616639057
[H:1][C:2]=[C:8]([H:9])[H:10].[H:3][C:6]([C:4]#[C:5][C:11]([H:12])([H:13])[H:14])[H:7]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.102444484619999
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.7248157432
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]=[C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11],-1.84908283911
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.82422489244
[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.39603945045
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][H:10].[O:1]=[C:2][H:3],1.11362147299
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:5].[O:1]=[C:2]([H:3])[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],4.8090554696
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])[C:7]([H:8])=[C:9][H:10],4.1711518222000015
[H:1][C:2]1[O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2](=[O:3])[C:10]([C:5](=[C:4])[C:6]([H:7])([H:8])[H:9])([H:11])[H:12],0.22080382351
[C:1].[C:2]([H:3])[O:4][C:5]#[C:6]>>[C:1]=[C:2]([H:3])[O:4][C:5]#[C:6],-5.9498267704900005
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[C:3]([H:4])([H:5])[O:6][C:7][H:8].[O:1]=[C:2],0.617259953041
[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-6.565395608609999
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:7].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:8]([H:9])=[C:10]([H:11])[H:12],5.06447127755
[H:7].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13],-4.0914658303500016
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.94976139518
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.7279094102900014
[C:4][H:5].[H:1][C:2]#[C:3]>>[H:1][C:2]=[C:3]=[C:4][H:5],-7.212932046160001
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],3.89011687988
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3],1.27982662023
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-2.513275967
[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.24049227272
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[C:6]([H:7])#[C:8][H:9].[O:1][O:2][C:3]([H:4])[H:5],0.531117241231
[H:12].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.57101646219
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])/[C:5]([O:6][O:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.70760488323
